US07727985B2
{(S)-2-[(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-1-methyl-ethyl}-carbamic acid methyl ester
To a solution of (S)-4-((S)-2-Amino-propyl)-6,6-dimethyl-morpholine-3 carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide hydrochloride salt (3.45 g, 6.59 mmole) in 68 ml of dry pyridine, was added in three portions over 1.5 hr, a 3M DCM solution of methyl chloroformate (9.2 ml, 27.6 mmole, 4.2 eq). After 2 h, 10 ml of water were added and the mixture was concentrated to dryness. The residue was partitioned into 150 ml Of EtOAc and 100 ml of an aqueous 0.5M solution of K2CO3. The separated aqueous phase was extracted with 50 ml of EtOAc. The combined organic extracts were successively washed with water (2×50 ml) and brine (50 ml), dried over Na2SO4 and concentrated to dryness. The residue was purified on silica (5% MeOH/CH2Cl2) to give 2.48 g(thick oil, 77% yield) of the desired product.

reactant | (S)-4-((S)-2-Amino-propyl)-6,6-dimethyl-morpholine-3 carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide hydrochloride salt | 6.59 mmole, 3.45 g | Cl.ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1N(CC(OC1)(C)C)C[C@H](C)N
reactant | DCM | 3M | C(Cl)Cl | CH2Cl2
reactant | methyl chloroformate | 27.6 mmole, 9.2 ml, 4.2 eq | ClC(=O)OC | C2H3ClO2
reactant | water | 10 ml | O | H2O
solvent | pyridine | 68 ml | N1=CC=CC=C1 | C5H5N
product | {(S)-2-[(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-1-methyl-ethyl}-carbamic acid methyl ester | 77% yield | COC(N[C@H](CN1CC(OC[C@H]1C(NC=1C=C(C=C2C=3C=CN=CC3NC12)Cl)=O)(C)C)C)=O | C23H28ClN5O4
